US08895596B2
Step C Methyl 3-{[5-(biphenyl-4-yl)-4,6-difluoro-1H-benzimidazol-2-yl]oxy}cyclohexanecarboxylate.
A suspension of methyl 3-{[5-(biphenyl-4-yl)-1-(biphenyl-4-ylmethyl)-4,6-difluoro-1H-benzimidazol-2-yl]oxy}cyclohexanecarboxylate (0.080 g, 0.127 mmol) and Pearlman's Catalyst (0.016 g, 0.023 mmol) in EtOAc (1.5 ml) and EtOH (0.75 ml) was treated with 1,4-cyclohexadiene (0.24 ml, 2.56 mmol). The resulting reaction mixture was microwaved at 120° C. for 90 minutes and then cooled. The cooled reaction mixture was filtered through a Celite™ pad and the filtrate was removed in vacuo. Purification of the resulting residue by reverse phase HPLC eluting with 50-100% MeCN/H2O afforded the title compound as a white solid. LC-MS: calculated for C27H24F2N2O3 462.18, observed m/e: 463.01.01 (M+H)+ (Rt 2.31/4 min).

reactant | methyl 3-{[5-(biphenyl-4-yl)-1-(biphenyl-4-ylmethyl)-4,6-difluoro-1H-benzimidazol-2-yl]oxy}cyclohexanecarboxylate | 0.127 mmol, 0.080 g | C1(=CC=C(C=C1)C1=C(C2=C(N(C(=N2)OC2CC(CCC2)C(=O)OC)CC2=CC=C(C=C2)C2=CC=CC=C2)C=C1F)F)C1=CC=CC=C1 | C40H34F2N2O3
reactant | 1,4-cyclohexadiene | 2.56 mmol, 0.24 ml | C1=CCC=CC1 | C6H8
catalyst | Pearlman's Catalyst | 0.023 mmol, 0.016 g | [OH-].[OH-].[Pd+2]
solvent | EtOAc | 1.5 ml | CCOC(=O)C | C4H8O2
solvent | EtOH | 0.75 ml | CCO | C2H6O
product | Methyl 3-{[5-(biphenyl-4-yl)-4,6-difluoro-1H-benzimidazol-2-yl]oxy}cyclohexanecarboxylate | C1(=CC=C(C=C1)C1=C(C2=C(NC(=N2)OC2CC(CCC2)C(=O)OC)C=C1F)F)C1=CC=CC=C1 | C27H24F2N2O3
